US05372842
Toluenesulfonic acid monohydrate was prepared by dripping 6 moles toluene over a period of 1 hour into a mixture of 3.75 moles sulfuric acid and 2.25 moles fuming sulfuric acid at a mixture temperature of 45° C. to 60° C. and then ageing for an additional 30 minutes at 45° C. Into this product was then dripped the mixture of 1 mole trichlorosilane and 6.6 moles toluene over a period of 5 hours at 30° C. followed by ageing for 30 minutes at 45° C. After cooling and layer separation, the toluenesulfonic acid layer (lower layer) was removed. In order to remove the acid present in the upper layer, it was washed with suitable quantities of sulfuric acid/water (50/50 weight ratio), then sulfuric acid/water (25/75 weight ratio), and finally water. The water was then completely eliminated by azeotropic drying for 1 hour to afford a toluene solution. Removal of the toluene fro by reduced pressure (vacuum pump) at 60° C. gave hydrogen silsesquioxane resin A. This hydrogen silsesquioxane resin A had a number-average molecular weight (Mn) of 1,650, and the value of its weight-average molecular weight/number-average molecular weight ratio (Mw /Mn) was 19.4.

reactant | toluene | 6 moles | C1(=CC=CC=C1)C | C7H8
reactant | sulfuric acid | 3.75 moles | S(O)(O)(=O)=O | H2O4S
reactant | trichlorosilane | 1 mole | Cl[SiH](Cl)Cl | Cl3HSi
reactant | toluene | 6.6 moles | C1(=CC=CC=C1)C | C7H8
product | Toluenesulfonic acid monohydrate | O.C=1(C(=CC=CC1)S(=O)(=O)O)C | InChI=1S/C7H8O3S.H2O/c1-6-4-2-3-5-7(6)11(8,9)10;/h2-5H,1H3,(H,8,9,10);1H2
